US07572817B2
Glacial acetic acid (190 μL, 3.3 mmoL) was added to a solution of tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-5-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(4-methoxybenzyl)thio]pentanoate (800 mg, 0.89 mmol, synthesised according to the procedure for Example 1, starting from tert-butyl(3-iodophenoxy)dimethylsilane) in dry THF (10 mL). Tetrabutylammonium fluoride trihydrate (489 mg, 1.5 mmol) was added and the mixture was stirred for 12 h at room temperature. EtOAc (150 mL) was added and the solution was washed with saturated aqueous NaHCO3, water and brine, dried and concentrated. Flash chromatography (CH2Cl2/EtOAc, 10:1) gave tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-5-(3-hydroxyphenyl)-3-[(4-methoxybenzyl)thio]pentanoate (660 mg, 98%).

reactant | acetic acid | 190 μL | C(C)(=O)O | C2H4O2
reactant | tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-5-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(4-methoxybenzyl)thio]pentanoate | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(C(=O)OC(C)(C)C)C(CCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)SCC1=CC=C(C=C1)OC | C40H58N2O6SSi
reactant | tert-butyl(3-iodophenoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC=C1)I | C12H19IOSi
reactant | Tetrabutylammonium fluoride trihydrate | 1.5 mmol, 489 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-5-(3-hydroxyphenyl)-3-[(4-methoxybenzyl)thio]pentanoate | 660 mg, 98% | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(C(=O)OC(C)(C)C)C(CCC1=CC(=CC=C1)O)SCC1=CC=C(C=C1)OC | C34H44N2O6S
